US08217177B2
A 100 mL RB flask was charged with 2-bromo-1-(quinolin-6-yl)ethanone (0.7011 g, 2.80 mmol), (E)-N′-(6-chloropyridazin-3-yl)-N,N-dimethylformamidine (0.518 g, 2.80 mmol), and DMF (10.0 ml, 129 mmol), equipped with a reflux condenser, then heated at 105° C. for 3 hours. The reaction mixture was concentrated, then triturated with MeOH to yield (6-chloroimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone (0.530 g, 1.72 mmol, 61%) as a brown solid.

reactant | 2-bromo-1-(quinolin-6-yl)ethanone | 2.80 mmol, 0.7011 g | BrCC(=O)C=1C=C2C=CC=NC2=CC1 | C11H8BrNO
reactant | (E)-N′-(6-chloropyridazin-3-yl)-N,N-dimethylformamidine | 2.80 mmol, 0.518 g | ClC1=CC=C(N=N1)/N=C/N(C)C | C7H9ClN4
reactant | DMF | 129 mmol, 10.0 ml | CN(C)C=O | C3H7NO
product | (6-chloroimidazo[1,2-b]pyridazin-3-yl)(quinolin-6-yl)methanone | 1.72 mmol, 0.530 g, 61% | ClC=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=CC=NC1=CC2 | C16H9ClN4O
